US07888364B2
75 mL of (5-methylpyridin-2-yl)zinc(II) bromide was reacted with 4 g of 1-chloro-2-iodo-4-nitrobenzene via Procedure B. To 935 mg of 2-(2-chloro-5-nitrophenyl)-5-methylpyridine in 5 mL of Sulfuric Acid was slowly added 2.25 g of Chromium (III) Oxide and the reaction was stirred for several hours at room temperature until complete. Icewater was added to dilute the reaction and the aqueous layer was extracted 3 times with Ethyl Acetate. The organic layers were combined, dried over Magnesium Sulfate, filtered and concentrated to give 6-(2-chloro-5-nitrophenyl)nicotinic acid. 704 mg of 6-(2-chloro-5-nitrophenyl)nicotinic acid was esterified with 3.1 mL of 4N HCl in Dioxane in 20 mL of MeOH. The reaction was concentrated and subjected to basic workup, dried over Magnesium Sulfate, filtered and concentrated to give methyl 6-(2-chloro-5-nitrophenyl)nicotinate. 681 mg of methyl 6-(2-chloro-5-nitrophenyl)nicotinate was treated with 2.1 g of Tin (II) Chloride and 1 mL of HCl in 25 mL of EtOH. Upon completion, EtOH was concentrated and the reaction was extracted with Ethyl Acetate and water with TEA to decrease emulsions. The organic layer was dried over Magnesium Sulfate, filtered and concentrated to give crude methyl 6-(5-amino-2-chlorophenyl)nicotinate. 296 mg of methyl 6-(5-amino-2-chlorophenyl)nicotinate was coupled to 266 mg of 4-(methylsulfonylmethyl)benzoic acid via Procedure G. To 518 mg of methyl 6-(2-chloro-5-(4-(methylsulfonylmethyl)benzamido)phenyl)nicotinate at 0° C. in 20 mL of EtOH was slowly added 640 mg of Sodium Borohydride. The reaction was subsquently refluxed for 1 hour until complete, quenched with water and extracted with Ethyl Acetate. The organic layer was dried over Magnesium Sulfate, filtered, concentrated and purified by reverse phase HPLC to give pure N-(4-chloro-3-(5-(hydroxymethyl)pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide. MS (Q1) 431.1 (M)+.

reactant | methyl 6-(2-chloro-5-nitrophenyl)nicotinate | 681 mg | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=C(C(=O)OC)C=C1 | C13H9ClN2O4
reactant | Tin (II) Chloride | 2.1 g | [Sn](Cl)Cl
reactant | HCl | 1 mL | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
product | methyl 6-(5-amino-2-chlorophenyl)nicotinate | NC=1C=CC(=C(C1)C1=NC=C(C(=O)OC)C=C1)Cl | C13H11ClN2O2
